US05153210
A solution of 4-acetonylphenoxyacetamide, ethylene ketal (3.2 g) and diethyl oxalate (2.0 g) in dry dimethylformamide at 0° C. was treated with potassium tert-butoxide (3.24 g) in two portions at 15 min. intervals. The solution was then stirred 16 h at ambient temperature, poured into water, and acidified with 6N hydrochloric acid. The aqueous solution was extracted with ethyl acetate, the combined organic extracts dried (magnesium sulphate), filtered and evaporated and the residue crystallised from acetone/ether to give 4-[4-acetonylphenoxy]-3-hydroxy-1H-pyrrole-2,5-dione, (1.5 g).

reactant | 4-acetonylphenoxyacetamide | C(C(=O)C)C1=CC=C(OCC(=O)N)C=C1 | C11H13NO3
reactant | diethyl oxalate | 2.0 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | potassium tert-butoxide | 3.24 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[4-acetonylphenoxy]-3-hydroxy-1H-pyrrole-2,5-dione | 1.5 g | C(C(=O)C)C1=CC=C(OC2=C(C(NC2=O)=O)O)C=C1 | C13H11NO5
